US05204474
1,4-Bis(2,6-diphenylpiperidin-1-yl)-2-butene
A solution of 2,6-diphenylpiperidine [3.0 g, 12.6 mmol; prepared by the method of V. Baliah et al., Indian J. Chem., 16B, 1965 (1978)] and 1,4-but-2-enediol diacetate (1.1 g, 6.3 mmol) in tetrahydrofuran (20 ml, THF) is treated with tetrakis(triphenylphosphine)palladium (0) (0.65 g, 0.6 mmol) and stirred at room temperature overnight. The reaction mixture is concentrated in vacuo to a solid that is redissolved in THF (100 ml) and treated with 20% aqueous sodium hydroxide (25 ml). The mixture is stirred for one hour, concentrated, and extracted with diethyl ether. The ether extracts are dried and concentrated giving an orange solid which is purified by crystallization from methanol to yield 2.02 g (61%) of the title compound as a white solid melting at 197°-200° C.

reactant | 2,6-diphenylpiperidine | C1(=CC=CC=C1)C1NC(CCC1)C1=CC=CC=C1 | C17H19N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.6 mmol, 0.65 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,4-Bis(2,6-diphenylpiperidin-1-yl)-2-butene | 2.02 g, 61% | C1(=CC=CC=C1)C1N(C(CCC1)C1=CC=CC=C1)CC=CCN1C(CCCC1C1=CC=CC=C1)C1=CC=CC=C1 | C38H42N2
